US04780464
N-Cyclopropyl-1-ethyl[1,2,4]triazolo[4,3-a]quinoxalin-4-amine
The title compound was prepared essentially as described in Example 4 substituting 4-chloro-1-ethyl[1,2,4]triazolo[4,3-a]quinoxaline and cyclopropyl amine for 4-chloro-1-n-propyl[1,2,4]triazolo[4,3-a]quinoxaline and cyclopentanamine respectively; mp 190°-192° C.

reactant | 4-chloro-1-ethyl[1,2,4]triazolo[4,3-a]quinoxaline | ClC=1C=2N(C3=CC=CC=C3N1)C(=NN2)CC | C11H9ClN4
reactant | cyclopropyl amine | C1(CC1)N | C3H7N
reactant | 4-chloro-1-n-propyl[1,2,4]triazolo[4,3-a]quinoxaline | ClC=1C=2N(C3=CC=CC=C3N1)C(=NN2)CCC | C12H11ClN4
reactant | cyclopentanamine | C1(CCCC1)N | C5H11N
product | N-Cyclopropyl-1-ethyl[1,2,4]triazolo[4,3-a]quinoxalin-4-amine | C1(CC1)NC=1C=2N(C3=CC=CC=C3N1)C(=NN2)CC | C14H15N5
